US07553969B1
A suspension of N-benzyl-2-(4-benzyloxy-3-tert-butylphenyl)-1-methyl-N-(benzyloxycarbonyl)-ethylamine (2.35 g, 4.50 mmol) and 20% palladium hydroxide/carbon catalyst (0.50 g) in methanol (30 ml) was stirred in a hydrogen atmosphere overnight. The mixture was filtered to remove the catalyst and the filtrate was evaporated to remove the solvent under reduced pressure, giving 2-(3-tert-butyl-4-hydroxyphenyl)-1-methylethylamine (T21) (0.90 g, 96%).

reactant | N-benzyl-2-(4-benzyloxy-3-tert-butylphenyl)-1-methyl-N-(benzyloxycarbonyl)-ethylamine | 4.50 mmol, 2.35 g | C(C1=CC=CC=C1)N(C(=O)OCC1=CC=CC=C1)C(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)C(C)(C)C)C | C35H39NO3
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide/carbon | 0.50 g | [OH-].[OH-].[Pd+2]
solvent | methanol | 30 ml | CO | CH4O
product | 2-(3-tert-butyl-4-hydroxyphenyl)-1-methylethylamine | 0.90 g, 96% | C(C)(C)(C)C=1C=C(C=CC1O)CC(C)N | C13H21NO
